US05302718
Isobutyl 2-hydroxy-5-iodobenzoate
2-hydroxy-5-iodobenzoic acid (477 g, 1.8 mol), isobutanol (225 g), conc sulfuric acid (20 ml) in toluene (2 1) was refluxed for 6 h using a water separator. The solution was cooled and washed with water. The solution was treated with decolorizing carbon and the toluene was evaporated. The residue was recrystallized from methanol. Yield 376 g.

reactant | 2-hydroxy-5-iodobenzoic acid | 1.8 mol, 477 g | OC1=C(C(=O)O)C=C(C=C1)I | C7H5IO3
reactant | isobutanol | 225 g | C(C(C)C)O | C4H10O
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Isobutyl 2-hydroxy-5-iodobenzoate | OC1=C(C(=O)OCC(C)C)C=C(C=C1)I | C11H13IO3
